US08106215B2
A.3.5 Synthesis of (1S,2S,5R)-2-(benzylamino-methyl)-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester
Benzylamine (0.155 mL, 1.75 eq) was added to a solution of (1S,2S,5R)-2-formyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester (206 mg, 1 eq) in chloroform (6 mL). After 15 min the mixture was treated with NaBH(OAc)3 (173 mg, 1 eq), and stirred for 16 h. The reaction mixture was poured into a sat. aq. NaHCO3 solution. The layers were separated and the aq. layer was extracted twice with chloroform. The combined org. extracts were washed with sat. NaHCO3 solution, dried over anh. MgSO4, filtered and concentrated in vacuo to give a crude yellow oil. FC (EA/n-heptane: 3/7 to 7/3) gave the title compound as a colourless oil

reactant | Benzylamine | 0.155 mL, 1.75 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | (1S,2S,5R)-2-formyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | 206 mg, 1 eq | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)C=O | C14H23NO3
reactant | NaBH(OAc)3 | 173 mg, 1 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EA n-heptane | CC(OCC)=O.CCCCCCC
product | (1S,2S,5R)-2-(benzylamino-methyl)-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNCC1=CC=CC=C1 | C21H32N2O2
